US08202873B2
4-(5-Chloro-1-methyl-1H-pyrazol-4-ylmethyl)-3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
To a solution of 1M lithium aluminum hydride in tetrahydrofuran (1.97 mL, 1.97 mmol) under nitrogen add dropwise a solution of 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.255 g, 0.99 mmoles) in tetrahydrofuran (5 mL). After stirring for 30 min heat the solution to reflux, then add dropwise a solution of 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (223 mg, 1.18 mmol) in tetrahydrofuran (2 mL) over 45 min. After 30 min cool the reaction to room temperature and then cool to 0° C. Cautiously quench with water (10 mL), add DCM (10 mL) and then pass through a phase separator. Wash the aqueous layer twice with DCM (10 mL) and pass through the separator. Combine the organic extracts and concentrate then purify by flash chromatography (silica gel column, eluting with 0-15% methanol in methylene chloride). Further purify by reverse phase HPLC to obtain the free base. Dissolve the free base (59 mg, 0.16 mmol) in the minimum quantity of 50% aqueous acetonitrile. Add 2M aqueous HCl (80 μL, 0.16 mmol) and lyophilize to give the title compound (52 mg, 12%). MS (ES): m/z=387.1 [M+H]+.

reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.99 mmoles, 0.255 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 1.18 mmol, 223 mg | C(C)OC(=O)C=1C=NN(C1Cl)C | C7H9ClN2O2
reactant | HCl | 0.16 mmol, 2M, 80 μL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | tetrahydrofuran | 1.97 mmol, 1.97 mL | O1CCCC1 | C4H8O
product | 4-(5-Chloro-1-methyl-1H-pyrazol-4-ylmethyl)-3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 52 mg, 12% | Cl.ClC1=C(C=NN1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)F | InChI=1S/C19H20ClFN6.ClH/c1-25-18(20)15(12-24-25)13-26-8-10-27(11-9-26)19-17(22-6-7-23-19)14-2-4-16(21)5-3-14;/h2-7,12H,8-11,13H2,1H3;1H
